US04088652
Preparation of 3-m-Fluorobenzoyl-1-phenyl-3-azabicyclo[3.1.0]hexane
A 6.4 g. portion of 1-phenyl-3-azabicyclo[3.1.0]-hexane is added to 60 ml. of benzene. A 4.2 g. portion of sodium carbonate in 40 ml. of water is added with stirring. A 6.3 g. portion of m-fluorobenzoyl chloride is added and the mixture is stirred overnight. The oil present in the aqueous layer is extracted with chloroform, washed successively with water, dilute hydrochloric acid and water, dried over magnesium sulfate, filtered and evaporated giving an oil. This oil is dissolved in ether. A small amount of petroleum ether is added and the product is recovered as a white solid, mp 68°-69.5° C.

reactant | 1-phenyl-3-azabicyclo[3.1.0]-hexane | C1(=CC=CC=C1)C12CNCC2C1 | C11H13N
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | m-fluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 3-m-Fluorobenzoyl-1-phenyl-3-azabicyclo[3.1.0]hexane | FC=1C=C(C(=O)N2CC3(CC3C2)C2=CC=CC=C2)C=CC1 | C18H16FNO
